US03959309
3-(Dimethylamino)-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole
A solution of 15.5 g. of 4-dimethylaminocyclohexanone and 15.2 g. of 4-carboxyphenylhydrazine in 200 ml. of 5-N hydrogen chloride in ethyl alcohol was refluxed for 24 hours and the reaction mixture was evaporated to dryness under reduced pressure. The residue was dissolved in water, the aqueous solution was made alkaline with dilute sodium hydroxide and extracted with methylene dichloride and the extract was evaporated to dryness under reduced pressure to give, after recrystallization from isopropyl alcohol, 17.8 g. of (3-(dimethylamino)-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole, m.p. 188°-190°C.

reactant | 4-dimethylaminocyclohexanone | CN(C1CCC(CC1)=O)C | C8H15NO
reactant | 4-carboxyphenylhydrazine | C(=O)(O)C1=CC=C(C=C1)NN | C7H8N2O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl alcohol | C(C)O | C2H6O
product | 3-(Dimethylamino)-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC=C(C=C3C2C1)C(=O)OCC)C | C17H22N2O2
